US07772226B2
(d) 1-Allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one
0.76 g of potassium carbonate and 0.94 g of benzyl bromide were added to a 50 ml N,N-dimethylformamide solution of 1.05 g of 1-allyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one, and the mixture was stirred at room temperature for 14 hours. 300 ml of water and 300 ml of ethyl acetate were added to the solution, and the organic layer was washed three times with 100 ml of water and then with 100 ml of a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure to give 1.57 g of the title compound.

reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.94 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-allyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 1.05 g | C(C=C)N1C(NC=2C(=NC=CC21)Cl)=O | C9H8ClN3O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
product | 1-Allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 1.57 g | C(C=C)N1C(N(C=2C(=NC=CC21)Cl)CC2=CC=CC=C2)=O | C16H14ClN3O
